US06258967B1
(a) Preparation of Diphenylzinc
The zinc chloride solution was charged to the flask by syringe and diluted with 60 ml THF all under a nitrogen atmosphere. The stirrer was started and phenylmagnesium bromide introduced using a dry 20 ml syringe dropwise over 5 min initially forming a precipitate which dissolved by the end of the addition. The reaction mixture was held at 20-25° C. during addition and stirred for a total of 2 hours. The dioxan was then added by syringe causing a fine, white solid to precipitate. The slurry was stirred a further 45 min at 25° C., then filtered via the in-line sintered glass filter. The filter cake was washed with 10 ml THF and blown dry with nitrogen. The filtrate was a pale yellow solution in THF of diphenylzinc (57 mol % Zn, 10.2 mol % Mg). The flask was sealed and stored in a refrigerator.

reactant | zinc chloride | [Cl-].[Zn+2].[Cl-]
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | dioxan | O1CCOCC1 | C4H8O2
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | Diphenylzinc | C1(=CC=CC=C1)[Zn]C1=CC=CC=C1 | InChI=1S/2C6H5.Zn/c2*1-2-4-6-5-3-1;/h2*1-5H;
